US05234821
In a 7% ammonia solution in methanol were dissolved 2.6 g of o-trifluoromethylbenzaldehyde and 5.8 g of benzyl acetoacetate, and the solution was stirred in a closed tube at 90° C. for 10 hours. The reaction mxiture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methanol/dichloromethane =1/50) to obtain 6.0 g (yield: 76%) of dibenzyl 1,4-dihydro -2,6-dimethyl-4-(2-trifluoromethylphenyl)-3,5-pyridinedicarboxylate as a yellow oily substance.

reactant | o-trifluoromethylbenzaldehyde | 2.6 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | benzyl acetoacetate | 5.8 g | C(CC(=O)C)(=O)OCC1=CC=CC=C1 | C11H12O3
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | dibenzyl 1,4-dihydro -2,6-dimethyl-4-(2-trifluoromethylphenyl)-3,5-pyridinedicarboxylate | 6.0 g, yield: 76% | CC=1NC(=C(C(C1C(=O)OCC1=CC=CC=C1)C1=C(C=CC=C1)C(F)(F)F)C(=O)OCC1=CC=CC=C1)C | C30H26F3NO4
